US07375087B2
3-(2,3,4,6-Tetra-O-acetyl-β-D-galactopyranosyloxy)-4-({4-[2-(benzyloxycarbonyl)ethoxy]phenyl}methyl)-5-isopropyl-1H-pyrazole
The title compound was prepared in a similar manner to that described in Reference Example 12 using 4-({4-[2-(benzyloxycarbonyl)ethoxy]phenyl}methyl)-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one and acetobromo-α-D-galactose instead of 4-{[4-(2-benzyloxycarbonyl-2-methylpropoxy)phenyl]methyl}-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one and acetobromo-α-D-glucose, respectively.

reactant | 4-({4-[2-(benzyloxycarbonyl)ethoxy]phenyl}methyl)-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one | C(C1=CC=CC=C1)OC(=O)CCOC1=CC=C(C=C1)CC=1C(NNC1C(C)C)=O | C23H26N2O4
reactant | acetobromo-α-D-galactose | CC(=O)OC[C@@H]1[C@@H]([C@@H]([C@H]([C@H](O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
reactant | acetobromo-α-D-glucose | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
product | 3-(2,3,4,6-Tetra-O-acetyl-β-D-galactopyranosyloxy)-4-({4-[2-(benzyloxycarbonyl)ethoxy]phenyl}methyl)-5-isopropyl-1H-pyrazole | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)OCCC(=O)OCC1=CC=CC=C1)C(C)C | C37H44N2O13
